US08293758B2
2-Benzyl-N,N-dimethyl-4-phenyl-2′,3′,4′,9′-tetrahydrospiro[cyclohexane-1,1′-pyrido[3,4-b]indole]-4-amine
(±)-2-benzyl-4-dimethylamino-4-phenylcyclohexanone (307 mg, 1 mmol) together with tryptamine (160 mg, 1 mmol) was dissolved in methanol and stirred at RT for 24 h. The solvent was then removed in a vacuum and the residue dissolved in 1,2-dichloroethane (20 ml). The mixture was mixed with trifluoroacetic acid (1.7 ml, 22.8 mmol) and stirred for 24 h at RT. For work up the reaction mixture was mixed with 2N NaOH (20 ml) and stirred for 20 min. The organic phase was separated and the aqueous phase extracted with dichloromethane (4×20 ml). The combined organic phases were dried with MgSO4. The solvent was then concentrated by evaporation in a vacuum. One of the possible diastereoisomers was isolated from the residue obtained (260 mg) by means of chromatographic purification [silica gel 60 G (10 g); ethyl acetate/ethanol 1:1 (80 ml), methanol (60 ml)].

reactant | (±)-2-benzyl-4-dimethylamino-4-phenylcyclohexanone | 1 mmol, 307 mg | C(C1=CC=CC=C1)C1C(CCC(C1)(C1=CC=CC=C1)N(C)C)=O | C21H25NO
reactant | tryptamine | 1 mmol, 160 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | trifluoroacetic acid | 22.8 mmol, 1.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 2N, 20 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-Benzyl-N,N-dimethyl-4-phenyl-2′,3′,4′,9′-tetrahydrospiro[cyclohexane-1,1′-pyrido[3,4-b]indole]-4-amine | C(C1=CC=CC=C1)C1CC(CCC12NCCC1=C2NC2=CC=CC=C12)(N(C)C)C1=CC=CC=C1 | C31H35N3
